US08729061B2
(2S,3S)-3-Amino-2-hydroxy-N-(naphthalen-1-ylmethyl)pentanamide
The title compound was prepared in analogy to (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide, Representative Procedure B, using naphthalen-1-ylmethanamine in the seventh step (step B7).

reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide | N[C@H]([C@@H](C(=O)NC1CC1)O)CC | C8H16N2O2
reactant | naphthalen-1-ylmethanamine | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
product | (2S,3S)-3-Amino-2-hydroxy-N-(naphthalen-1-ylmethyl)pentanamide | N[C@H]([C@@H](C(=O)NCC1=CC=CC2=CC=CC=C12)O)CC | C16H20N2O2
